US07138517B2
F. 2′-Deoxy-5′-O-(4,4′-dimethoxytrityl)-2′-methylthiouridine
To a stirred solution of 2′-deoxy-2′-methylthiouridine (1.09 g, 4 mmol) in dry pyridine (10 mL) was added 4,4′-dimethoxytritylchloride (1.69 g, 5 mmol) and 4-dimethylaminopyridine (50 mg) at room temperature. The solution was stirred for 12 hours and the reaction mixture quenched by adding MeOH (1 mL). The reaction mixture was concentrated under reduced pressure and the residue was dissolved in CH2Cl2 (100 mL), washed with saturated aqueous NaHCO3 (2×50 mL) and saturated aqueous NaCl (2×50 mL), and dried with MgSO4. The solution was concentrated under reduced pressure and the residue purified by silica gel (30 g) column chromatography. Elution with CH2Cl2—MeOH-triethylamine (89:1:1) furnished the title compound as a homogenous material. Pooling and concentrating the appropriate fractions furnished the 5′-O—DMT nucleoside as a foam (1.5 g, 66.5%).

reactant | 2′-deoxy-2′-methylthiouridine | 4 mmol, 1.09 g | C[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=S)NC(=O)C=C1 | C10H14N2O4S
reactant | 4,4′-dimethoxytritylchloride | 5 mmol, 1.69 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)Cl)C=C1 | C21H19ClO2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2′-Deoxy-5′-O-(4,4′-dimethoxytrityl)-2′-methylthiouridine | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N2C(=S)NC(=O)C=C2)C)O)C=C1 | C31H32N2O6S
